US04305948
A-1. 1-(4-Pyridinyl)-2-(dimethylamino)ethenyl methyl ketone
The above preparation can be carried out using in place of hexamethylphosphoramide other solvents, e.g., dimethylformamide, acetonitrile or others noted above or in the absence of a solvent; however, hexamethylphosphoramide was conveniently used since (4-pyridinyl)methyl methyl ketone was conveniently prepared as a mixture together with hexamethylphosphoramide, as seen by the following preparation: To a stirred solution containing 70 ml. of freshly distilled diisopropylamine and 200 ml. of tetrahydrofuran at 0° C. under nitrogen was added dropwise over 20 minutes 210 cc. of 2.4 M n-butyllithium in n-hexane and the reaction mixture was stirred for about 35 minutes at about 0°-5° C. To the cold solution was added dropwise over a period of 10 minutes 90 ml. of dry hexamethylphosphoramide (no temperature change) and a resulting light yellow solution was stirred for 15 minutes. To the cold solution at 0° C. was added a solution of 50 ml. of 4-picoline in 150 ml. of dry tetrahydrofuran over a 15 minute period and stirring was continued for 30 minutes at 0° C. Next, a mixture containing 50 ml. of dry ethyl acetate and 150 ml. of tetrahydrofuran was added over a 15 minute period (temperature rose from 0° to about 6° C.) and the resulting mixture was stirred for 20 minutes at 0° C. The ice bath was then removed and stirring continued for another 90 minutes whereupon the temperature of the reaction mixture rose to about 25° C. The reaction mixture was then cooled in an ice bath and to it was added 60 ml. of acetic acid over a period of about 90 minutes. The tetrahydrofuran was distilled off using a rotary evaporator in vacuo. The remaining mixture was diluted with 400 ml. of water and the aqueous mixture was extracted successively with two 250 ml. portions of isopropyl acetate and three 80 ml. portions of chloroform. The solvents were distilled off under reduced pressure to yield about 137 g. of a mixture consisting primarily of the desired product and hexamethylphosphoramide. Another run using the same quantities was carried out as above except after the addition of 60 ml. of glacial acetic acid, the mixture was diluted with only 200 ml. of water, the phases were separated, and the aqueous phase was extracted with five 100 ml. portions of chloroform. The chloroform extract was washed with saline solution and the chloroform was distilled off in vacuo. The remaining mixture of the desired ketone and hexamethylphosphoramide was combined with the above 137 g. of the same mixture and the combined mixture was distilled under reduced pressure to yield the following fractions: I. 63 g., b.p. of 110°-112° C. at 4 mm.; II. 59 g. of pale yellow oil, b.p. 113°-115° C. at 3 mm.; and, III. 69 g. of pale yellow oil, b.p. 115°-118° C. at 2.5 mm. Examination of fraction III by NMR showed it to consist of a 2:3 mixture by weight of (4-pyridinyl)methyl methyl ketone and hexamethylphosphoramide.

reactant | (4-pyridinyl)methyl methyl ketone | CC(=O)CC1=CC=NC=C1 | C8H9NO
reactant | diisopropylamine | C(C)(C)NC(C)C | C6H15N
reactant | n-butyllithium | 2.4 M | C(CCC)[Li]
reactant | 4-picoline | N1=CC=C(C=C1)C | C6H7N
solvent | n-hexane | CCCCCC | C6H14
solvent | hexamethylphosphoramide | CN(P(=O)(N(C)C)N(C)C)C | C6H18N3OP
solvent | tetrahydrofuran | O1CCCC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
solvent | acetonitrile | C(C)#N | C2H3N
solvent | dimethylformamide | CN(C=O)C | C3H7NO
product | 1-(4-Pyridinyl)-2-(dimethylamino)ethenyl methyl ketone | CC(=O)C(=CN(C)C)C1=CC=NC=C1 | C11H14N2O
